************************************************************************
* auCdl Netlist:
* 
* Library Name:  multi_bit_tspc
* Top Cell Name: multi_bit_tspc
* View Name:     schematic
* Netlisted on:  Oct  9 15:03:19 2025
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: multi_bit_tspc
* Cell Name:    multi_bit_tspc
* View Name:    schematic
************************************************************************

.SUBCKT multi_bit_tspc clk d1 d2 d3 d4 gnd q1 q2 q3 q4 vdd
*.PININFO clk:I d1:I d2:I d3:I d4:I vdd:I q1:O q2:O q3:O q4:O gnd:B
MM38 net0159 clk net0207 vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM36 net0207 d4 vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM35 net0171 clk vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM34 net0183 net0171 vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM33 q4 net0183 vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM32 q3 net0184 vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM31 net0184 net0172 vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM30 net0172 clk vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM29 net0212 d3 vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM27 net0160 clk net0212 vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM21 q2 net092 vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM20 net092 net086 vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM19 net086 clk vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM18 net0106 d2 vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM16 net080 clk net0106 vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM10 q1 net24 vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM3 net24 net19 vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM2 net19 clk vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM1 net15 clk net37 vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM0 net37 d1 vdd vdd psvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM43 net0159 d4 gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM42 net0208 clk gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM41 net0209 net0171 gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM40 net0171 net0159 net0208 gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 
+ m=1 accurateFlow=0
MM39 net0183 clk net0209 gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM37 q4 net0183 gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM28 q3 net0184 gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM26 net0184 clk net0210 gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM25 net0172 net0160 net0211 gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 
+ m=1 accurateFlow=0
MM24 net0210 net0172 gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM23 net0211 clk gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM22 net0160 d3 gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM17 q2 net092 gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM15 net092 clk net0104 gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM14 net086 net080 net0105 gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 
+ m=1 accurateFlow=0
MM13 net0104 net086 gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM12 net0105 clk gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM11 net080 d2 gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM9 q1 net24 gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM8 net35 net19 gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM7 net24 clk net35 gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM6 net36 clk gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM5 net19 net15 net36 gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MM4 net15 d1 gnd gnd nsvtlp w=0.135 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
.ENDS

