

* Metastability Window Calculation for TSPC D Flip-Flop (1.08V, 125°C)

.include /modelfile_65nm/minNminP.cir
.include multi_bit_tspc

X1 clk d1 d2 d3 d4 gnd q1 q2 q3 q4 vdd multi_bit_tspc 

.global VDD gnd
.OPTION EPS=1e-5

C out gnd 20f 

.param SUPPLY = 1.08
.param tend = 50n
*.param delta = 0p
*.step param delta 0p 100p 50p  
.TEMP = 125

* Voltage sources
VDD vdd 0 SUPPLY 
VSS gnd 0 0      
V_in in gnd PULSE(0 SUPPLY 0n 10p 10p 7.5n 15n)  
VCLK CLK gnd PULSE(0 SUPPLY 0n 10p 10p 5n 10n)  

* Probes to monitor voltages
.probe v(*) v(x1.*)  
.probe i(*)       

* Clock to out delay measurements
*.measure tran tclk_q TRIG v(CLK) VAL='SUPPLY/2' RISE=1 TARG v(out) VAL='SUPPLY/2' RISE=1

* Setup time measurement
*.measure tran setup_time TRIG v(CLK) VAL='SUPPLY/2' RISE=2 TARG v(in) VAL='SUPPLY/2' FALL=2

* Hold time measurement
*.measure tran hold_time TRIG v(CLK) VAL='SUPPLY/2' RISE=1 TARG v(in) VAL='SUPPLY/2' FALL=1

* Rising propagation delay (from CLK to out)
.measure tran tplh TRIG v(CLK) VAL='SUPPLY/2' RISE=3 TARG v(out) VAL='SUPPLY/2' RISE=1

* Falling propagation delay (from CLK to out)
.measure tran tphl TRIG v(CLK) VAL='SUPPLY/2' RISE=2 TARG v(out) VAL='SUPPLY/2' FALL= 1

* Delay
.measure TRAN delay param = ('tplh+tphl'/2)

.tran 10p tend  
.end 
